US08729105B2
Preparation of 5-(4-chloro-2-fluorophenyl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chloro-2-fluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid (example BT) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; LC-MS (UV peak area/ESI) 98.6%, 497.0254 (M−H)−.

reactant | 5-(4-chloro-2-fluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid | ClC1=CC(=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F)F | C14H8ClF4NO3
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-(4-chloro-2-fluorophenyl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | ClC1=CC(=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCC(F)(F)F)F | C18H10ClF7N4O3
